US06589978B2
(2RS,5SR)-3-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl-methyl]-5-methyl-[1,2,4]oxadiazole
The title compound, pale yellow oil, MS: m/e=416.3 (M+H+) was prepared in accordance with the general method of example 13 from (2RS,5SR)-2-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-N-hydroxy-acetamidine and acetic acid.

reactant | (2RS,5SR)-2-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-N-hydroxy-acetamidine | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)CC(=N)NO | C19H22FN3O3S
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | (2RS,5SR)-3-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl-methyl]-5-methyl-[1,2,4]oxadiazole | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)CC1=NOC(=N1)C | C21H22FN3O3S
